US07612114B2
Ethyl[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]{2-[4-(2-pyrrolidin-1-ylethoxy)phenyl]ethyl}amine
Synthesized from 4-{2-{ethyl[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]amino}ethyl}phenol (302 mg) and 1-(2-chloroethyl)pyrrolidine hydrochloride (155 mg) according to an analogous synthetic method to Preparation Example 40, the title compound (314 mg) was obtained.

reactant | 4-{2-{ethyl[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]amino}ethyl}phenol | 302 mg | C(C)N(CCC1=CC=C(C=C1)O)C1=C(C=CC(=C1)OC)C1CC2=CC=C(C=C2CC1)OC | C28H33NO3
reactant | 1-(2-chloroethyl)pyrrolidine hydrochloride | 155 mg | Cl.ClCCN1CCCC1
product | Ethyl[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]{2-[4-(2-pyrrolidin-1-ylethoxy)phenyl]ethyl}amine | 314 mg | C(C)N(CCC1=CC=C(C=C1)OCCN1CCCC1)C1=C(C=CC(=C1)OC)C1CC2=CC=C(C=C2CC1)OC | C34H44N2O3
